US07446122B2
45.A. Synthesis of 5,7-Dimethyl-1H-indole
To solution of 5,7-dimethyl-1H-indole-2,3-dione in tetrahydrofuran at 0° C. was added 1.0 M solution of borane-tetrahydrofuran complex in tetrahydrofuran (40 mL). After stirred at room temperature overnight, a 5% HCl solution was added to the mixture and it was stirred 20 minutes. It was neutralized with saturated sodium bicarbonate solution and extracted with ethyl acetate. Extracts were dried over magnesium sulfate and evaporated to dryness to afford the title compound as oil.

reactant | 5,7-dimethyl-1H-indole-2,3-dione | CC=1C=C2C(C(NC2=C(C1)C)=O)=O | C10H9NO2
reactant | HCl | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | 5,7-Dimethyl-1H-indole | CC=1C=C2C=CNC2=C(C1)C | C10H11N
